US04337197
(A) 2-Nitrophenylthio-L-threonine
L-threonine (11.9 g) is added to dioxane (125 ml) and 2 N sodium hydroxide (50 ml). To the vigorously stirred solution, o-nitrophenylsulfenyl chloride (20.9 g) is added in ten equal portions over fifteen minutes, while 2 N sodium hydroxide (60 ml) is slowly added dropwise. After five more minutes the reaction mixture is diluted with water (400 ml) and acidified to pH 2.5 with 10% potassium bisulfate. The organic layer is immediately extracted with ethyl acetate (three 200 ml portions), and the combined extracts are dried over sodium sulfate, and then concentrated to an oil. The product crystallizes on scratching (20.0 g). Recrystallization of 17 g from acetone/hexane affords 9.5 g of crystals, melting point 145°-148° C. which are stored in a freezer and used promptly.

reactant | L-threonine | 11.9 g | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | sodium hydroxide | 2 N, 50 ml | [OH-].[Na+]
reactant | o-nitrophenylsulfenyl chloride | 20.9 g | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
reactant | sodium hydroxide | 2 N, 60 ml | [OH-].[Na+]
reactant | potassium bisulfate | S([O-])(O)(=O)=O.[K+]
solvent | water | 400 ml | O | H2O
solvent | dioxane | 125 ml | O1CCOCC1 | C4H8O2
product | 2-Nitrophenylthio-L-threonine | 9.5 g | [N+](=O)([O-])C1=C(C=CC=C1)N[C@@H]([C@H](O)C)C(=S)O | C10H12N2O4S
